US07897767B2
Anhydrous hydrazine (0.160 mL, 5.22 mmol) was added to a suspension of N-[3-(4-amino-2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c]-[1,5]naphthyridin-1-yl)propyl]-2-methylpropanamide (0.848 g, 1.74 mmol) in ethanol (10 mL). The mixture was allowed to stir at room temperature for 2.5 hours, then was concentrated under reduced pressure to yield crude N-(3-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}propyl)-2-methylpropanamide as a yellow solid, all of which was used in the next step.

reactant | hydrazine | 5.22 mmol, 0.160 mL | NN | H4N2
reactant | N-[3-(4-amino-2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c]-[1,5]naphthyridin-1-yl)propyl]-2-methylpropanamide | 1.74 mmol, 0.848 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCNC(C(C)C)=O)CON2C(C1=CC=CC=C1C2=O)=O | C25H25N7O4
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(3-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}propyl)-2-methylpropanamide | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCNC(C(C)C)=O)CON | C17H23N7O2
